US04053601
Methyl 4-(3-t-butylamino-2-hydroxypropoxy)-3-(3-carbomethoxypropionyl)benzoate was heated with dilute sodium hydroxide solution until hydrolysis was complete. The solution was neutralised with acetic acid then evaporated under reduced pressure. Extraction of the residue with ethanol and evaporation of the extracts gave 4-(3-t-butylamino-2-hydroxypropoxy)-3-(3-carboxypropionyl)benzoic acid.

reactant | Methyl 4-(3-t-butylamino-2-hydroxypropoxy)-3-(3-carbomethoxypropionyl)benzoate | C(C)(C)(C)NCC(COC1=C(C=C(C(=O)OC)C=C1)C(CCC(=O)OC)=O)O | C20H29NO7
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(3-t-butylamino-2-hydroxypropoxy)-3-(3-carboxypropionyl)benzoic acid | C(C)(C)(C)NCC(COC1=C(C=C(C(=O)O)C=C1)C(CCC(=O)O)=O)O | C18H25NO7
